* NGSPICE file created from hx_loop_capacitor.ext - technology: ihp-sg13g2

.subckt hx_loop_capacitor SIGP VSS
X0 VSS.t10 SIGP VSS.t12 VSS.t11 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X1 VSS.t30 SIGP VSS.t28 VSS.t13 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X2 VSS.t6 SIGP VSS.t8 VSS.t7 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X3 VSS.t32 SIGP VSS.t30 VSS.t15 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X4 VSS.t2 SIGP VSS.t1 VSS.t0 sg13_lv_nmos ad=2.38p pd=14.68u as=0 ps=0 w=7u l=7u
X5 VSS.t28 SIGP VSS.t26 VSS.t11 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X6 VSS.t1 SIGP VSS.t4 VSS.t3 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X7 VSS.t8 SIGP VSS.t10 VSS.t9 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X8 VSS.t26 SIGP VSS.t24 VSS.t9 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X9 VSS.t14 SIGP VSS.t16 VSS.t15 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X10 VSS.t18 SIGP VSS.t17 VSS.t0 sg13_lv_nmos ad=2.38p pd=14.68u as=0 ps=0 w=7u l=7u
X11 VSS.t22 SIGP VSS.t20 VSS.t5 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X12 VSS.t24 SIGP VSS.t22 VSS.t7 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X13 VSS.t12 SIGP VSS.t14 VSS.t13 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X14 VSS.t20 SIGP VSS.t18 VSS.t3 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X15 VSS.t4 SIGP VSS.t6 VSS.t5 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
R0 VSS.n2 VSS.t11 9.64787
R1 VSS.n1 VSS.t7 60.5167
R2 VSS.n6 VSS.n0 0.00136788
R3 VSS.n0 VSS.n7 0.00156595
R4 VSS.n4 VSS.t13 42.8852
R5 VSS.t3 VSS.n7 19.6183
R6 VSS.n1 VSS.t9 19.6183
R7 VSS.n6 VSS.t5 15.992
R8 VSS.n21 VSS.n0 17.0005
R9 VSS.n4 VSS.t15 12.0632
R10 VSS.n2 VSS.n0 0.00120851
R11 VSS.n17 VSS.n3 3.50603
R12 VSS.n17 VSS.n11 1.54537
R13 VSS.n17 VSS.n8 0.942838
R14 VSS.n9 VSS.n11 0.00944536
R15 VSS.n19 VSS.n9 0.849282
R16 VSS.n19 VSS.n13 8.5005
R17 VSS.n0 VSS.n5 8.47732
R18 VSS.n17 VSS.n14 5.66778
R19 VSS.n11 VSS.n12 0.00572454
R20 VSS.n17 VSS.n16 5.66778
R21 VSS.n17 VSS.n15 5.66778
R22 VSS.n19 VSS.n18 5.66717
R23 VSS.n19 VSS.n12 5.66717
R24 VSS.n9 VSS.n8 0.0107082
R25 VSS.n19 VSS.n10 1.88901
R26 VSS.n20 VSS.n0 2.42963
R27 VSS.n22 VSS.t17 1.2096
R28 VSS.n23 VSS.n22 1.19657
R29 VSS.t20 VSS.t22 1.18726
R30 VSS.t8 VSS.t6 1.18726
R31 VSS.t12 VSS.t10 1.18188
R32 VSS.t6 VSS.t4 1.17786
R33 VSS.t22 VSS.t24 1.17786
R34 VSS.t16 VSS.t14 1.17463
R35 VSS.t1 VSS.t2 1.17241
R36 VSS.t26 VSS.t28 1.17241
R37 VSS.t17 VSS.t18 1.16092
R38 VSS.t30 VSS.t32 1.15741
R39 VSS.t28 VSS.t30 1.13252
R40 VSS.t12 VSS.t14 1.13154
R41 VSS.t18 VSS.t20 1.12501
R42 VSS.t24 VSS.t26 1.11752
R43 VSS.t4 VSS.t1 1.11752
R44 VSS.t10 VSS.t8 1.10748
R45 VSS.t16 VSS 0.39266
R46 VSS.t22 VSS.n0 0.150099
R47 VSS.t6 VSS.n0 0.150099
R48 VSS.t30 VSS.n0 0.139355
R49 VSS.t26 VSS.n0 0.139355
R50 VSS.t1 VSS.n0 0.139355
R51 VSS.t10 VSS.n0 0.139321
R52 VSS.t14 VSS.n0 0.129264
R53 VSS.t18 VSS.n0 0.119905
R54 VSS.n22 VSS.n0 0.110075
R55 VSS.n23 VSS.n5 0.0846176
R56 VSS.t2 VSS.n5 0.0708676
R57 VSS.n21 VSS.t16 0.058
R58 VSS.t17 VSS 0.05425
R59 VSS VSS.n23 0.05425
R60 VSS.t32 VSS.n21 0.038
R61 VSS.n8 VSS.n10 0.0108436
R62 VSS.t16 VSS.n20 0.00351603
R63 VSS.n20 VSS.n19 0.00191575
R64 VSS.n18 VSS.n3 0.00248456
R65 VSS.n14 VSS.n12 0.00166667
R66 VSS.n16 VSS.n13 0.00166667
R67 VSS.n15 VSS.n13 0.00166667
R68 VSS.t0 VSS.n7 0.00136619
R69 VSS.n18 VSS.n14 0.00133332
R70 VSS.n16 VSS.n10 0.00455452
R71 VSS.n1 VSS.n0 0.00139282
R72 VSS.n15 VSS.n0 0.00133332
R73 VSS.n3 VSS.n0 0.00151538
R74 VSS.n4 VSS.n0 0.00109891
R75 VSS.t7 VSS.n6 21.7386
R76 VSS.t13 VSS.n2 39.3621
C0 SIGP VSS 96.6152f
.ends
